US08859494B2
3-{4-[1-(3-tert-Butylphenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoic acid
410 mg of methyl 3-{4-[1-(3-tert-butylphenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoate were dissolved in a mixture of THF/MeOH/2N NaOH=1:1:1 (5 ml of each) and stirred at room temperature. After 45 min, the mixture was acidified to pH 1 by adding 4N HCl. 50 ml of water were added, the mixture was extracted three times with 50 ml each time of ethyl acetate. The combined organic phases were dried over MgSO4 and then concentrated under reduced pressure. The residue was purified by means of RP-HPLC. This gave 148 mg of 3-{4-[1-(3-tert-butylphenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoic acid.

reactant | methyl 3-{4-[1-(3-tert-butylphenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoate | 410 mg | C(C)(C)(C)C=1C=C(OCC2(CC2)COC2=CC=C(C=C2)C(CC(=O)OC)C#CC)C=CC1 | C28H34O4
reactant | HCl | 4N | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | THF MeOH | 2N | C1CCOC1.CO
product | 3-{4-[1-(3-tert-Butylphenoxymethyl)cyclopropylmethoxy]phenyl}hex-4-ynoic acid | C(C)(C)(C)C=1C=C(OCC2(CC2)COC2=CC=C(C=C2)C(CC(=O)O)C#CC)C=CC1 | C27H32O4
